US09399636B2
A flask containing N-tert-butyl-4-(difluoromethyl)pyridin-2-amine (4.43 g, 22.1 mmol), triethylsilane (7.28 mL, 44.2 mmol) and trifluoroacetic acid (22.1 mL, 1 M) was fitted with a reflux condenser. The reaction mixture was stirred at 90° C. for 21 hr and then, after cooling to rt, concentrated to dryness and partitioned between CH2Cl2 and sat. aq. NaHCO3. After separation of the phases, the aqueous layer was re-extracted with CH2Cl2 and the combined organics were dried over MgSO4. Concentration afforded 4-(difluoromethyl)pyridin-2-amine as a light brown solid (3.16 g, >99%); 1H NMR (400 MHz, CDCl3) δ 8.16 (d, J=5.3 Hz, 1H), 6.74 (d, J=5.3 Hz, 1H), 6.66-6.33 (m, 2H), 4.62 (br s, 2H).

reactant | N-tert-butyl-4-(difluoromethyl)pyridin-2-amine | 22.1 mmol, 4.43 g | C(C)(C)(C)NC1=NC=CC(=C1)C(F)F | C10H14F2N2
reactant | triethylsilane | 44.2 mmol, 7.28 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1 M, 22.1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(difluoromethyl)pyridin-2-amine | 3.16 g, >99% | FC(C1=CC(=NC=C1)N)F | C6H6F2N2
